US07153889B2
2,6-Difluoro-3-{6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-naphthalen-2-yl}-pyridine
The title compound was prepared using the method in Example 3C using, methanesulfonic acid 2-[6-(2,6-difluoro-pyridin-3-yl)-naphthalen-2-yl]-ethyl ester for 2-[6-(3-acetylphenyl)-2-naphthyl]ethyl methanesulfonate. 1H NMR (CD3OD, 300 MHz), δ 8.34–8.25 (m, 1H), 8.05 (s, 1H), 7.97–7.9 (m, 2H), 7.82 (s, 1H), 7.72-7.67 (d, J=6 Hz, 1H), 7.54–7.48 (d, J=7.8 Hz, 1H), 7.17–7.11 (d, J=6 Hz, 1H), 3.18–3.11 (m, 2H), 3.09–2.96 (m, 2H), 2.51–2.4 (m, 2H), 2.39–2.31 (m, 1H), 2.10–1.91 (m, 1H), 1.89–1.76 (m, 2H), 1.55–1.4 (m, 1H), 1.15 (d, J=6 Hz, 3H). MS (DCI-NH3) [M+H]+ at 353.

reactant | methanesulfonic acid 2-[6-(2,6-difluoro-pyridin-3-yl)-naphthalen-2-yl]-ethyl ester | FC1=NC(=CC=C1C=1C=C2C=CC(=CC2=CC1)CCOS(=O)(=O)C)F | C18H15F2NO3S
reactant | 2-[6-(3-acetylphenyl)-2-naphthyl]ethyl methanesulfonate | CS(=O)(=O)OCCC1=CC2=CC=C(C=C2C=C1)C1=CC(=CC=C1)C(C)=O | C21H20O4S
reactant | NH3 | N | H3N
product | 2,6-Difluoro-3-{6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-naphthalen-2-yl}-pyridine | FC1=NC(=CC=C1C1=CC2=CC=C(C=C2C=C1)CCN1[C@@H](CCC1)C)F | C22H22F2N2
